US05102877
To a solution of trimethylsilylacetylene (16.3 ml) in tetrahydrofuran (100 ml) were added successively a solution of n-butyllithium in n-hexane (1.50M, 70 ml) and a solution of 1-allyloxycarbonyl-3-oxopyrrolidine (15 g) in tetrahydrofuran (15 ml) at -50° C. After stirring at -50° C. for 1 hour, to the mixture was added a mixture of aqueous ammonium chloride and ethyl acetate at 0° C. The organic layer was separated and the aqueous layer was extracted with ethyl acetate twice. The organic layers were combined washed with 1N hydrochloric acid, water and brine successively and dried over magnesium sulfate. Evaporation of the solvent in vacuo gave 1-allyloxycarbonyl-3-hydroxy-3-trimethylsilylethynylpyrrolidine (19.5 g).

reactant | trimethylsilylacetylene | 16.3 ml | C[Si](C)(C)C#C | C5H10Si
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-allyloxycarbonyl-3-oxopyrrolidine | 15 g | C(C=C)OC(=O)N1CC(CC1)=O | C8H11NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.50M, 70 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-allyloxycarbonyl-3-hydroxy-3-trimethylsilylethynylpyrrolidine | 19.5 g | C(C=C)OC(=O)N1CC(CC1)(C#C[Si](C)(C)C)O | C13H21NO3Si
